* Auto-generated netlist for an LTspice simulation

R1 N003 0 3.08Meg
R2 N004 N003 2.43Meg
R3 N005 N004 1.75Meg
R4 N006 N005 1.25Meg
R5 N007 N006 0.897Meg
R6 N008 N007 0.664Meg
R7 N009 N008 0.528Meg
R8 N010 N009 0.446Meg
R9 N011 N010 0.457Meg
R10 N012 N011 0.483Meg
R11 N013 N012 0.528Meg
R12 N014 N013 0.577Meg
R13 N015 N014 0.621Meg
R14 N016 N015 0.65Meg
R15 N017 N016 0.657Meg
R16 N018 N017 0.639Meg
R17 N019 N018 0.593Meg
R18 N020 N019 0.52Meg
R19 N021 N020 0.422Meg
R20 N022 N021 0.305Meg
R21 N023 N022 0.178Meg
R22 N001 N023 0.048Meg
R23 N024 N001 0.072Meg
R24 N025 N024 0.167Meg
R25 N002 N025 0.220Meg
R26 N026 N002 2.13Meg
V22 0 N001 88.752
V25 0 N002 86.46
V1 0 N026 100.0

.op
.end
